US05688946
A solution of 32 mg (0.043 mmol) of tert-butyl [2-[[(S)-2-[[(S)-1-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-3-phenylpropyl]sulphonyl]-2-methylpropyl]carbamate in 2 ml of dioxan is treated with 2 ml (4 mmol) of 2N hydrochloric acid in dioxan while cooling with ice and stirred for 1 hour. Subsequently, the solution is lyophilized and there are obtained 30 mg of (S)-α-[(S)-α-[[[(2-amino-1,1-dimethylethyl)sulphonyl]methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide dihydrochloride as a colourless powder; MS: 646 (M+H)+.

reactant | tert-butyl [2-[[(S)-2-[[(S)-1-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-3-phenylpropyl]sulphonyl]-2-methylpropyl]carbamate | 0.043 mmol, 32 mg | C1(CCCCC1)C[C@@H]([C@H]([C@@H](O)C1CC1)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@@H](CS(=O)(=O)C(CNC(OC(C)(C)C)=O)(C)C)CC1=CC=CC=C1 | C38H59N5O8S
reactant | hydrochloric acid | 4 mmol, 2N, 2 ml | Cl | ClH
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | (S)-α-[[[(2-amino-1,1-dimethylethyl)sulphonyl]methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide dihydrochloride | Cl.Cl.NCC(C)(C)S(=O)(=O)CC(C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | InChI=1S/C33H51N5O6S.2ClH/c1-33(2,20-34)45(43,44)19-25(15-22-9-5-3-6-10-22)31(41)38-28(17-26-18-35-21-36-26)32(42)37-27(16-23-11-7-4-8-12-23)30(40)29(39)24-13-14-24;;/h3,5-6,9-10,18,21,23-25,27-30,39-40H,4,7-8,11-17,19-20,34H2,1-2H3,(H,35,36)(H,37,42)(H,38,41);2*1H/t25?,27-,28-,29-,30+;;/m0../s1
